US09029391B2
methyl 2-[4-(2,4-dimethylphenyl)-2-methyl-1-oxo-1,2-dihydro-3-isoquinolinyl]-4-pentenoate
A solution of methyl 2-(4-(2,4-dimethylphenyl)-2-methyl-1-oxo-1,2-dihydroisoquinolin-3-yl)acetate (60 mg, 0.179 mmol) in tetrahydrofuran (THF) (2 mL) was treated with LiHMDS (0.358 mL, 0.358 mmol) and allyl bromide (0.232 mL, 2.68 mmol) at 0° C. The mixture was warmed to room temperature and stirred for 1 hour. The mixture was quenched with saturated NH4Cl solution and extracted with ethyl acetate. The combined extracts were washed with saturated NaHCO3 solution and brine, dried over Na2SO4, filtered and concentrated. The material was used crude in the next step (64 mg, 95%). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 8.44-8.54 (m, 1 H) 7.41-7.56 (m, 2 H) 7.06-7.19 (m, 2 H) 6.97-7.05 (m, 1 H) 6.80-6.91 (m, 1 H) 5.40-5.70 (m, 1 H) 4.85-5.06 (m, 2 H) 3.89-4.05 (m, 1 H) 3.68 (s, 3 H) 3.53 (s, 3 H) 2.91-3.06 (m, 1 H) 2.43-2.55 (m, 1 H) 2.41 (s, 3 H) 2.03 (s, 3 H). LC/MS (m/z) ES+=376 (M+1).

reactant | methyl 2-(4-(2,4-dimethylphenyl)-2-methyl-1-oxo-1,2-dihydroisoquinolin-3-yl)acetate | 0.179 mmol, 60 mg | CC1=C(C=CC(=C1)C)C1=C(N(C(C2=CC=CC=C12)=O)C)CC(=O)OC | C21H21NO3
reactant | LiHMDS | 0.358 mmol, 0.358 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | allyl bromide | 2.68 mmol, 0.232 mL | C(C=C)Br | C3H5Br
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | methyl 2-[4-(2,4-dimethylphenyl)-2-methyl-1-oxo-1,2-dihydro-3-isoquinolinyl]-4-pentenoate | CC1=C(C=CC(=C1)C)C1=C(N(C(C2=CC=CC=C12)=O)C)C(C(=O)OC)CC=C | C24H25NO3
